US07745641B2
In a similar manner to Step 2 of Reference Example 2, 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]indole (495 mg, 1.57 mmol) was dissolved in acetonitrile (5.0 mL), and the solution was treated with di-tert-butyldicarbonate (1.19 mL, 5.19 mmol) and DMAP (19.2 mg, 0.157 mmol). The reaction mixture was purified by flash column chromatography (hexane/ethyl acetate=19/1, 9/1, 17/3, 7/3, 1/1) to obtain 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]-1-(tert-butoxycarbonyl)indole (346 mg, yield 53%).

reactant | 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]indole | 1.57 mmol, 495 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C=C2C=CNC2=CC1 | C18H25N3O2
reactant | di-tert-butyldicarbonate | 5.19 mmol, 1.19 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.157 mmol, 19.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[4-(tert-butoxycarbonyl)piperazin-1-ylmethyl]-1-(tert-butoxycarbonyl)indole | 346 mg, yield 53% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C23H33N3O4
